US06072057
1-[(2-(trimethylsilyl)ethoxy)]-imidazole (8.0 g, 0.040 m) was dissolved in 100 ml of dry THF and the solution cooled to -78° C. under N2. N-BuLi (17.7 ml, 44.4 m) was added dropwise in ten minutes, and the dark burgundy solution stirred for 1 hour at -78° C. Phenyl disulfide (9.26 g, 42.4 m) in 20 ml of THF was added via syringe, and the reaction mixture stirred for 1 hour. The reaction mixture was added to 500 ml of saturated ammonium chloride solution, and then extracted with 500 ml of ethyl acetate. The ethyl acetate layer was separated, dried over MgSO4, filtered, and evaporated in vacuo to give a yellow oil. Purification using silica gel column chromatography and eluting with ethyl acetate/hexanes mixtures gave 10.0 grams of 1-[2-(trimethylsilyl)ethoxy]methyl]-2-thiophenyl-imidazole (yellow viscous oil).

reactant | 1-[(2-(trimethylsilyl)ethoxy)]-imidazole | 8.0 g | C[Si](CCON1C=NC=C1)(C)C | C8H16N2OSi
reactant | Phenyl disulfide | 9.26 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-thiophenyl-imidazole | S1C(=CC=C1)C=1NC=CN1 | C7H6N2S
